Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ivp dye / iodine
 
Attending: ___
 
Chief Complaint:
rectal bleeding
 
Major Surgical or Invasive Procedure:
colonoscopy
 
History of Present Illness:
___ male with remote history of GI bleeding of
unknown etiology, depression/anxiety, headaches, low
testosterone, presenting with blood per rectum and
lightheadedness.

Patient reports development of dark, bloody stool output 
starting
___ night (2 nights ago), associated with
lower abdominal pain radiating to his chest.  He had 2 episodes
of hematochezia on ___, estimates having about 6 episodes
on ___ and 6 episodes today.  He describes the stool as 
dark and bloody, "maroon colored", with no frank melena, no
bright red blood.  He has had some nausea but no vomiting.  He
endorses vague lower abdominal pain, though the pain also
involves the epigastrium and radiates into the chest.  Pain is
partially relieved with Tums.  Today he developed some mild
lightheadedness, and decided was time to come in for evaluation
in the ED.

Of note, patient sustained a concussion in ___ and has been
trialed on multiple pain medications for this.  He was briefly
alternating Motrin and naproxen for ___ weeks, though reports
stopping this in mid ___ and denies or is unaware of any other
NSAID use.  Denies any known history of peptic or duodenal ulcer
disease.

He had a CT abdomen/pelvis done in the ED.  The preliminary read
shows no acute intra-abdominal pathology.  Incidental notes were
made of a punctate calcification in the upper pole of the left
kidney, 4.6 mm hypodense lesion in the upper pole of the left
kidney consistent with a simple renal cyst.  No comment made on
the presence or absence of diverticular disease.  In the ED he
received a 1 L fluid bolus, and was admitted for further workup
and evaluation.  ED team spoke with GI, who recommended low
residual diet and likely scope on ___.

ROS: As per HPI, and 10 point ROS completed and otherwise
negative.

 
Past Medical History:
Posttraumatic headache, followed by Dr. ___, on
gabapentin 3 times daily
Depression/anxiety
Gout
Age-related nuclear cataract in both eyes
Suspected glaucoma both eyes
Testicular hypofunction
 
Social History:
___
Family History:
No family history of GI bleeding or peptic ulcer disease
 
Physical Exam:
 97.9
PO 100 / 53
R Lying 75 16 95 RA 
Gen: Lying in bed in no apparent distress
HEENT: Anicteric, eyes conjugate, MMM, no JVD
Cardiovascular: RRR no MRG, nl. S1 and S2
Pulmonary: Lung fields clear to auscultation throughout
Gastroinestinal: Soft, non-tender, non-distended, bowel sounds
present, no HSM, mild discomfort noted but no tenderness, 
rebound
MSK: No edema
Skin: No rashes or ulcerations evident
Neurological: Alert, interactive, speech fluent, face symmetric,
moving all extremities
Psychiatric: pleasant, appropriate affect
 
Pertinent Results:
___ 04:09PM   ___ PTT-29.8 ___
___ 04:06PM   GLUCOSE-97 UREA N-16 CREAT-1.0 SODIUM-141 
POTASSIUM-4.7 CHLORIDE-101 TOTAL CO2-28 ANION GAP-12
___ 04:06PM   estGFR-Using this
___ 04:06PM   WBC-8.5 RBC-4.90 HGB-15.2 HCT-44.9 MCV-92 
MCH-31.0 MCHC-33.9 RDW-12.8 RDWSD-42.6
___ 04:06PM   NEUTS-62.3 ___ MONOS-8.5 EOS-2.5 
BASOS-0.5 IM ___ AbsNeut-5.31 AbsLymp-2.21 AbsMono-0.72 
AbsEos-0.21 AbsBaso-0.04
___ 04:06PM   PLT COUNT-192

Ct abdomen
IMPRESSION: 
  
  
1. Possible nonobstructing punctate right nephrolithiasis.  
Otherwise, no 
acute intra-abdominal pathology is identified. 

colonoscopy
Findings:  

 Protruding Lesions Grade 3 internal hemorrhoids were noted.  

 Excavated Lesions A few non-bleeding diverticula with small 
openings were seen in the sigmoid. Diverticulosis appeared to be 
of mild severity.  
 
Impression: Grade 3 internal hemorrhoids
Diverticulosis of the sigmoid
Otherwise normal colonoscopy to terminal ileum 

 
Brief Hospital Course:
___ male with remote history of GI
bleeding of unknown etiology, depression/anxiety, headaches, low
testosterone, presenting with blood per rectum and
lightheadedness.

# GI bleed: recent NSAID use for not significant per patient,
says he had bright red colored blood and maroon colored blood 
per
rectum per patient.  
-h/h stable so far, not o any blood thinners
-oral PPI 
-s/p colonoscopy as above
- maintain active T&S
-lipase and ct negative, he tolerated the diet and is stable for 
discharge
-bleeding likely hemorrhoidal
-stool softeners and if recurs given contact information for 
colorectal surgery

#migraines, headaches: Continue on gabapentin 900 mg nightly.

stable for discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 900 mg PO QHS 
2. Amitriptyline 10 mg PO QHS 
3. Naproxen 500 mg PO BID:PRN Pain - Moderate 
4. Fluticasone Propionate NASAL 1 SPRY NU BID 

 
Discharge Medications:
1.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
RX *lansoprazole 30 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
2.  Amitriptyline 10 mg PO QHS  
3.  Fluticasone Propionate NASAL 1 SPRY NU BID  
4.  Gabapentin 900 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower GI bleeding, likely related to internal hemorrhoids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. ___

___ were admitted for blood in your stools and abdominal pain. 
___ CT and liver enzymes looked normal and CT was ___ 
had a colonoscopy which showed some hemorrhoids which can 
explain the bleeding.

___ will need to follow up with your PCP closely outpatient.

Goodluck
 
Followup Instructions:
___